US09450192B2
A mixture of 1.2 g of 9-acetyl-3-bromocarbazole and 1.2 g of di-p-tolylamine were stirred together in 20 ml N,N′-dimethylacetamide. To this was added 0.8 g of copper oxide and heated to 170° C. for 24 h. The reaction was quenched with water and the solid was filtered, washed with methanol, and dried under vacuum. The solid was then taken up for further deprotection using 0.6 g KOH with THF (3 ml), methanol (6 ml) and water (6 ml) at reflux temperature. The reaction mixture was then extracted using ethyl acetate; and the organic layer was dried over anhydrous sodium sulfate and evaporated to dryness under vacuum. Subsequent silica gel column chromatography using toluene/hexane (½) as eluent, yielded 1.2 g of 3-(N,N-di-p-tolylamino)-9H-carbazole.

reactant | 9-acetyl-3-bromocarbazole | 1.2 g | C(C)(=O)N1C2=CC=CC=C2C=2C=C(C=CC12)Br | C14H10BrNO
reactant | di-p-tolylamine | 1.2 g | C1(=CC=C(C=C1)NC1=CC=C(C=C1)C)C | C14H15N
catalyst | copper oxide | 0.8 g | [Cu]=O
product | 3-(N,N-di-p-tolylamino)-9H-carbazole | 1.2 g | C1(=CC=C(C=C1)N(C1=CC=C(C=C1)C)C=1C=CC=2NC3=CC=CC=C3C2C1)C | C26H22N2
